US07956188B2
In a similar procedure to Stage 1, Step 1 of Example 6, 3-bromo-8-iodo-6-nitro-quinoline was treated with concentrated hydrochloric acid and iron powder to give 3-bromo-8-iodo-quinolin-6-ylamine as a beige powder ((M+1)+ 351).

reactant | 3-bromo-8-iodo-6-nitro-quinoline | BrC=1C=NC2=C(C=C(C=C2C1)[N+](=O)[O-])I | C9H4BrIN2O2
reactant | hydrochloric acid | Cl | ClH
catalyst | iron | [Fe] | Fe
product | 3-bromo-8-iodo-quinolin-6-ylamine | BrC=1C=NC2=C(C=C(C=C2C1)N)I | C9H6BrIN2
